US04060526
Step 3. 2-[2-(1-[p-Hydroxyphenyl]-4-piperazinyl)ethylamino]benzamide
A mixture of 61 g 1-(p-hydroxyphenyl)-4-(2-bromoethyl)piperazine dihydrobromide, 18.5 g anthranilamide, 33.5 g sodium acetate, and 250 ml water was refluxed 16 hours, cooled, filtered and the solid washed with water and isopropanol. The solid was suspended in water and made alkalline with Na2CO3. The solid was filtered, suspended in 75% ethanol and added dilute HCl until acidic. The solution was cooled and the solid filtered and recrystallized from 1200 ml water to give 18.5 g product, m.285°.

reactant | 1-(p-hydroxyphenyl)-4-(2-bromoethyl)piperazine dihydrobromide | 61 g | Br.Br.OC1=CC=C(C=C1)N1CCN(CC1)CCBr
reactant | anthranilamide | 18.5 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | sodium acetate | 33.5 g | C(C)(=O)[O-].[Na+]
solvent | water | 250 ml | O | H2O
product | 2-[2-(1-[p-Hydroxyphenyl]-4-piperazinyl)ethylamino]benzamide | 18.5 g | OC1=CC=C(C=C1)N1CCN(CC1)CCNC1=C(C(=O)N)C=CC=C1 | C19H24N4O2
